US07365193B2
2-[N-Boc-3,7-diazabicyclo[3.3.0]octan-3-yl]-7-bromofluoren-9-one
A mixture of 3-Boc-3,7-diazabicyclo[3.3.0]octane (2.12 g, 10.0 mmol; see WO 0181347), 2,7-dibromofluoren-9-one (6.76 g, 20.0 mmol; Aldrich), tris(dibenzylideneacetone)dipalladium(0) (Pd2dba3; 185 mg, 0.202 mmol; Strem), racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (BINAP; 310 mg, 0.498 mmol; Strem) and sodium tert-butoxide (1.4 g, 14.6 mmol; Aldrich) in 100 mL toluene was warmed to 85° C. and stirred for 9 h. The reaction mixture was cooled to ambient temperature and filtered through diatomaceous earth, rinsing with dichloromethane. After concentrating the solution under reduced pressure, the residue was purified by column chromatography (silica gel, 10-60% EtOAc/hexanes) to give the title compound (3.54 g, 7.55 mmol, 75% yield). MS (DCl/NH3): m/z 469, 471 (M+1)+.

reactant | 3-Boc-3,7-diazabicyclo[3.3.0]octane | 10.0 mmol, 2.12 g | C(=O)(OC(C)(C)C)N1CC2CNCC2C1 | C11H20N2O2
reactant | 2,7-dibromofluoren-9-one | 20.0 mmol, 6.76 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)=O | C13H6Br2O
reactant | sodium tert-butoxide | 14.6 mmol, 1.4 g | CC(C)([O-])C.[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.202 mmol, 185 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.498 mmol, 310 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 2-[N-Boc-3,7-diazabicyclo[3.3.0]octan-3-yl]-7-bromofluoren-9-one | 7.55 mmol, 3.54 g, 75% yield | C(=O)(OC(C)(C)C)N1CC2CN(CC2C1)C1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)=O | C24H25BrN2O3
